US08461328B2
Sodium hydride (104 mg of a 60% dispersion in mineral oil, 2.60 mmol) was added portionwise to a solution of 1,2,4-triazole (194 mg, 2.80 mmol) in DMF (5 mL). After 5 minutes trans methanesulfonic acid 4-tert-butoxycarbonylamino-cyclohexyl ester (587 mg, 2.00 mmol) was added. The reaction mixture was then heated at 65° C. for 3 days. The cooled mix was poured into ice-cold water (75 mL) which was then extracted with ethyl acetate (2×25 mL). The combined organic extracts were washed with brine (75 mL), dried over sodium sulfate and concentrated under vacuum to give the crude product. This was purified by chromatography on silica gel (eluting with 0-5% methanol in ethyl acetate) to afford 260 mg (49%) of cis (4-[1,2,4]triazol-1-yl-cyclohexyl)-carbamic acid tert-butyl ester a white solid. LCMS (Method H, ESI): RT=2.60 min M+H=267.0; 1H NMR (400 MHz, DMSO): δ 8.55 (s, 1H), 7.95 (s, 1H), 6.89 (br s, 1H), 4.32-4.22 (m, 1H), 3.58 (br s, 1H), 2.20-2.07 (m, 2H), 1.88-1.77 (m, 2H), 1.69-1.56 (m, 4H), 1.39 (s, 9H).

reactant | Sodium hydride | [H-].[Na+]
reactant | 1,2,4-triazole | 2.80 mmol, 194 mg | N1N=CN=C1 | C2H3N3
reactant | trans methanesulfonic acid 4-tert-butoxycarbonylamino-cyclohexyl ester | 2.00 mmol, 587 mg | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)OS(=O)(=O)C | C12H23NO5S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | cis (4-[1,2,4]triazol-1-yl-cyclohexyl)-carbamic acid tert-butyl ester | 260 mg, 49% | C(C)(C)(C)OC(N[C@@H]1CC[C@@H](CC1)N1N=CN=C1)=O | C13H22N4O2
